US05932598
N-[[4-[5-(4-Methylphenyl)-3-(trifluoromethyl)-1H-pyrazol-1-yl]phenyl]sulfonyl]acetamide
4-[5-(4-Methylphenyl)-3-(trifluoromethyl)-1H-pyrazol-1-yl]benzenesulfonamide (0.60 g, 1.57 mmol) was heated in 2 mL acetyl chloride and 2 mL acetic acid at reflux for 2 h. An additional 2 mL acetyl chloride was added and the mixture was heated to reflux for an additional 5 h. The mixture was cooled and concentrated. Recrystallization from ether/hexane furnished the product as a white solid: Anal. Calc'd for C19H16N3O3SF3 : C, 53.90; H, 3.81; N, 9.92; S, 7.57. Found: C, 54.04; H, 3.80; N, 9.93; S, 7.66.

reactant | 4-[5-(4-Methylphenyl)-3-(trifluoromethyl)-1H-pyrazol-1-yl]benzenesulfonamide | 1.57 mmol, 0.60 g | CC1=CC=C(C=C1)C1=CC(=NN1C1=CC=C(C=C1)S(=O)(=O)N)C(F)(F)F | C17H14F3N3O2S
reactant | acetic acid | 2 mL | C(C)(=O)O | C2H4O2
solvent | acetyl chloride | 2 mL | C(C)(=O)Cl | C2H3ClO
solvent | acetyl chloride | 2 mL | C(C)(=O)Cl | C2H3ClO
product | N-[[4-[5-(4-Methylphenyl)-3-(trifluoromethyl)-1H-pyrazol-1-yl]phenyl]sulfonyl]acetamide | CC1=CC=C(C=C1)C1=CC(=NN1C1=CC=C(C=C1)S(=O)(=O)NC(C)=O)C(F)(F)F | C19H16F3N3O3S
